US05545652
(2R,3S)-2-(4-Fluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-yl)methyloxirane (1.5 g), 2.66 g of 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone and 6.3 g of cesium carbonate were added to 25 ml of N,N-dimethylformamide. The mixture was stirred at 80° C. for five hours. After cooling, the reaction solution was diluted with 100 ml of ethyl acetate, and washed with water (100 ml×2) and a saturated aqueous solution of sodium chloride (100 ml) successively. The ethyl acetate layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: hexane/ethyl acetate=2/3) to give 1.21 g of 1-[(1R,2R)-2-(4-fluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone as colorless powdery crystals.

reactant | (2R,3S)-2-(4-Fluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-yl)methyloxirane | 1.5 g | FC1=CC=C(C=C1)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H12FN3O
reactant | 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 2.66 g | FC(C(F)F)(OC1=CC=C(C=C1)N1C(NC=C1)=O)F | C11H8F4N2O2
reactant | cesium carbonate | 6.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(1R,2R)-2-(4-fluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 1.21 g | FC1=CC=C(C=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OC(C(F)F)(F)F)=O)(CN1N=CN=C1)O | C23H20F5N5O3
